US04921939
A mixture of 0.57 g (7.6 mmoles) of glycine and 0.3 g (7.6 mmoles) of sodium hydroxide in 3 cm3 of water and 2.5 (7.6 mmoles) of N-(4-cyanophenyl)-N'-phenylsulfonyl-S-methylisothiourea in 30 cm3 of 95% ethanol is heated to boiling for 7 hours. After cooling, the precipitate obtained is filtered and dissolved in 20 cm3 of 1N sodium hydroxide solution. The solution obtained is washed with dichloromethane (3×10 cm3) and ethyl acetate (2×10 cm3) and is then acidified to pH 3 with a 6N HCl solution. After cooling, precipitate forms and is filtered, washed with water (2×5 cm3) and dried in vacuo to give 1.4 g (yield 52%) of N-[phenylsulfonylimino(4-cyanophenylamino)methyl]-2-aminoethanoic acid having a melting point of 133° C.

reactant | glycine | 7.6 mmoles, 0.57 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 7.6 mmoles, 0.3 g | [OH-].[Na+]
reactant | N-(4-cyanophenyl)-N'-phenylsulfonyl-S-methylisothiourea | C(#N)C1=CC=C(C=C1)NC(SC)=NS(=O)(=O)C1=CC=CC=C1 | C15H13N3O2S2
solvent | water | 3 cm3 | O | H2O
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | N-[phenylsulfonylimino(4-cyanophenylamino)methyl]-2-aminoethanoic acid | 1.4 g, yield 52% | C1(=CC=CC=C1)S(=O)(=O)N=C(NCC(=O)O)NC1=CC=C(C=C1)C#N | C16H14N4O4S
